US04837333
(e) Ethyl 8-[(1H-imidazol-1-yl)methyl]-11-(4-methoxyphenyl)-7-undecenoate
A stirred suspension containing (7-ethoxy-7-oxoheptyl) triphenylphosphonium bromide (12 g, 0.024 mol) in dry tetrahydrofuran (40 ml) at room temperature under a nitrogen atmosphere was treated with potassium t-butoxide (2.70 g, 0.024 mol). The resulting orange mixture was stirred for 1 hour, treated with a solution of 1-(1H-imidazol-1-yl)-5-(4-methoxyphenyl)-2-pentanone (5.0 g, 0.019 mol) in dry tetrahydrofuran (20 ml) and then stirred for an additional 14 hours. The solvent was evaporated off under reduced pressure and the residue was dissolved in ethyl acetate (300 ml), washed with water (3×150 ml) and extracted into hydrochloric acid (4×150 ml of 5M). The acid extracts were combined, washed with ethyl acetate, basified using sodium carbonate, and extracted with ethyl acetate (4×250 ml). The organic extracts were combined, washed with water then brine, dried over sodium sulfate and the solvent was evaporated off under reduced pressure to yield a crude product. The crude product was purified by column chromatography (silica gel, 40% ethyl acetate in hexane to 100% ethyl acetate) to yield an isomeric mixture of E- and Z-ethyl 8-[(1H-imidazol-1-yl)methyl]-11-(4-methoxyphenyl)-7-undecenoate as a pale-yellow oil having the following structural characteristics:

reactant | (7-ethoxy-7-oxoheptyl) triphenylphosphonium bromide | 0.024 mol, 12 g | [Br-].C(C)OC(CCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O
reactant | potassium t-butoxide | 0.024 mol, 2.70 g | CC(C)([O-])C.[K+]
reactant | 1-(1H-imidazol-1-yl)-5-(4-methoxyphenyl)-2-pentanone | 0.019 mol, 5.0 g | N1(C=NC=C1)CC(CCCC1=CC=C(C=C1)OC)=O | C15H18N2O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Ethyl 8-[(1H-imidazol-1-yl)methyl]-11-(4-methoxyphenyl)-7-undecenoate | N1(C=NC=C1)CC(=CCCCCCC(=O)OCC)CCCC1=CC=C(C=C1)OC | C24H34N2O3
